US05342845
To 11.2 g of (S)-(-)-N-(3-aminoquinuclidinyl)-3-chlorobenzamide hydrochloride was added 40 ml of concentrated hydrochloric acid and the mixture was refluxed for 6 hours. The reaction mixture was cooled and filtered to remove insolubles and the filtrate was concentrated and dried. To the residue was added ethanol and the resulting crystals were recovered by filtration to provide 6.9 g of (S)-(-)-3-aminoquinuclidine dihydrochloride. m.p. not lower than 260° C.

reactant | (S)-(-)-N-(3-aminoquinuclidinyl)-3-chlorobenzamide hydrochloride | 11.2 g | Cl.NC1[C@H](N2CCC1CC2)NC(C2=CC(=CC=C2)Cl)=O
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | (S)-(-)-3-aminoquinuclidine dihydrochloride | 6.9 g | Cl.Cl.N[C@@H]1CN2CCC1CC2 | InChI=1S/C7H14N2.2ClH/c8-7-5-9-3-1-6(7)2-4-9;;/h6-7H,1-5,8H2;2*1H/t7-;;/m1../s1
